US09326516B2
4-(4-Chlorophenyl)-N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-5,6-dihydro-4H-1,3-oxazin-2-amine (F43)
The title compound was prepared with 3-amino-3-(4-chlorophenyl)propan-1-ol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.150 g, 64%).

reactant | 3-amino-3-(4-chlorophenyl)propan-1-ol | NC(CCO)C1=CC=C(C=C1)Cl | C9H12ClNO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 4-(4-Chlorophenyl)-N-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)-5,6-dihydro-4H-1,3-oxazin-2-amine | ClC1=CC=C(C=C1)C1N=C(OCC1)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C25H19ClF3N5O2
